US07361682B2
c) Step 3: 5-(1-Isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid cyclopropylmethyl-propyl-amide
A mixture of 0.07 mmol 5-(1-isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid, 1.25 equiv. 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl uronium tetrafluoroborat, 1.25 equivalents cyclopropylmethyl-propyl-amine and 5 equivalents N-ethyldiisopropyl-amine in 0.7 ml DMF was stirred for 16 h at room temperature. The mixture was diluted with 0.8 ml methanol and subjected to preparative HPLC purification on reversed phase material eluting with a gradient of acetonitrile/water/triethyamine. The product fractions were evaporated to dryness to yield 9.1 mg (37%) of the title compound as light brown solid. MS (m/e): 384.5 (MH+, 100%).

reactant | 5-(1-isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid | 0.07 mmol | C(C)(C)N1CC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)O | C16H20N2O3
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl uronium tetrafluoroborat | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | cyclopropylmethyl-propyl-amine | 1.25 equivalents | C1(CC1)CNCCC | C7H15N
reactant | N-ethyldiisopropyl-amine | 5 equivalents | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.7 ml | CN(C)C=O | C3H7NO
solvent | methanol | 0.8 ml | CO | CH4O
product | 5-(1-Isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid cyclopropylmethyl-propyl-amide | 9.1 mg, 37% | C1(CC1)CN(C(=O)C=1NC2=CC=C(C=C2C1)OC1CN(CC1)C(C)C)CCC | C23H33N3O2
